US08383637B2
[3-(3-Formyl-4-nitro-phenoxy)-phenyl]-carbamic acid benzyl ester
12N HCl (33 mL) and water (66 mL) were added to a mixture of [3-(3-dimethoxymethyl-4-nitro-phenoxy)-phenyl]-carbamic acid benzyl ester (0.14 mol) in THF (400 mL) and the reaction mixture was stirred for 48 hours at room temperature. The mixture was diluted with H2O (500 mL) and extracted 2 times with diisopropyl ether. The organic layer was separated, dried (MgSO4), filtered off and the solvent was evaporated. The resulting product was removed with a spatula and dried under vacuum to yield the title compound as a residue.

reactant | HCl | 12N, 33 mL | Cl | ClH
reactant | [3-(3-dimethoxymethyl-4-nitro-phenoxy)-phenyl]-carbamic acid benzyl ester | 0.14 mol | C(C1=CC=CC=C1)OC(NC1=CC(=CC=C1)OC1=CC(=C(C=C1)[N+](=O)[O-])C(OC)OC)=O | C23H22N2O7
solvent | THF | 400 mL | C1CCOC1 | C4H8O
solvent | H2O | 500 mL | O | H2O
solvent | water | 66 mL | O | H2O
product | [3-(3-Formyl-4-nitro-phenoxy)-phenyl]-carbamic acid benzyl ester | C(C1=CC=CC=C1)OC(NC1=CC(=CC=C1)OC1=CC(=C(C=C1)[N+](=O)[O-])C=O)=O | C21H16N2O6
